US05106862
A mixture of 3.8 g (0.026 mol) 4-amino-2-methylbenzimidazole, 2.7 g (0.026 mol) benzaldehyde and 0.05 g paratoluene sulfonic acid in 250 ml toluene was refluxed and the water formed was separated during 20 h. Upon cooling the volatiles were removed under reduced pressure. The residue obtained was suspended in 150 ml methanol and 1.8 g (0.048 mol) NaBH4 was added. The mixture was stirred at room temperature for 2 h and methanol was removed under reduced pressure. The residue was dissolved in methylene chloride, washed with water and dried (Na2SO4). After filtration, methylene chloride was removed under reduced pressure. Chromatography on silica gel and elution with methylene chloride:methanol (10:1) gave 0.1 g (0.00042 mol) of 4-benzylamino-2-methyl benzimidazole

reactant | 4-amino-2-methylbenzimidazole | 0.026 mol, 3.8 g | NC1=CC=CC=2N=C(NC21)C | C8H9N3
reactant | benzaldehyde | 0.026 mol, 2.7 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | paratoluene sulfonic acid | 0.05 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | NaBH4 | 0.048 mol, 1.8 g | [BH4-].[Na+]
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 150 ml | CO | CH4O
solvent | water | O | H2O
product | 4-benzylamino-2-methyl benzimidazole | 0.00042 mol, 0.1 g | C(C1=CC=CC=C1)NC1=CC=CC=2N=C(NC21)C | C15H15N3
